Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
ACE Inhibitors / statins
 
Attending: ___.
 
Chief Complaint:
Left ICA aneurysm.
 
Major Surgical or Invasive Procedure:
___ - Pipeline embolization of Left ICA aneurysm

 
History of Present Illness:
___ female with history of a left ICA aneurysm that was 
found on MRI/MRA ordered for acute dizziness and slight slurred 
speech. She presents on ___ for an elective pipeline 
embolization of her left ICA aneurysm. The risks and benefits of 
the procedure were discussed and the patient consented to the 
procedure. 
 
Past Medical History:
Dyslipidemia, HTN, hypothyroid, mild intermittent asthma, 
allergic rhinitis, headaches (sinus/allergies), low back pain, 
occasional GERD symptoms, s/p hysterectomy, s/p tubal ligation, 
s/p bladder slings x 2, s/p appendectomy, 

 
Social History:
___
Family History:
No family history of intracranial aneurysms
Father - cardiac aneurysm
Mother - abdominal aortic aneurysm
 
Physical Exam:
AT DISCHARGE:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  Right  4-3mm      Left 4-3mm 
 
EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift: [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No

Comprehension intact: [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip
Right 5         5      5        5     5
Left 5         5      5        5     5

IPQuadHamATEHLGast
Right   5         5      5      5        5       5
Left    5         5      5      5        5       5

[x]Sensation intact to light touch in all four extremities. 

Angio Groin Site: [x]Soft, no hematoma  [x]Palpable pulses
 
Pertinent Results:
Please see OMR for lab and imaging results. 
 
Brief Hospital Course:
___ female presented on ___ for an elective 
pipeline embolization of her left-sided ICA aneurysm. The 
procedure was uneventful. Please see the operative note for full 
details. Following the procedure, she was monitored closely in 
the PACU before being transferred to the ___ for frequent 
neurologic checks. The arterial line and foley catheter was 
discontinued. 

On ___, the patient remained neurologically intact on 
examination. The patient was tolerating a diet, ambulating 
independently and voiding without difficulty and it was 
determined she would be discharged to home.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Albuterol Inhaler ___ PUFF IH PRN wheezing, sob 
4. FLUoxetine 20 mg PO DAILY 
5. Hydrochlorothiazide 37.5 mg PO DAILY 
6. Levothyroxine Sodium 100 mcg PO DAILY 
7. Loratadine 10 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain 
Do not exceed greater than 4g Acetaminophen in a 24 hour period. 
  
2.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
4.  Albuterol Inhaler ___ PUFF IH PRN wheezing, sob  
5.  FLUoxetine 20 mg PO DAILY  
6.  Hydrochlorothiazide 37.5 mg PO DAILY  
7.  Levothyroxine Sodium 100 mcg PO DAILY  
8.  Loratadine 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left supraclinoid aneurysm.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Dr. ___ 
___ 

Activity:
•You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
•Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
•You make take a shower.

Medications:
•Resume your normal medications and begin new medications as 
directed.
•You may be instructed by your doctor to take one ___ a day 
and Plavix. If so, do not take any other products that have 
aspirin in them. If you are unsure of what products contain 
Aspirin, as your pharmacist or call our office.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•If you take Metformin (Glucophage) you may start it again 
three (3) days after your procedure.

Care of the Puncture Site:
•You will have a small bandage over the site.
•Remove the bandage in 24 hours (on ___ by soaking it 
with water and gently peeling it off.
•Keep the site clean with soap and water and dry it carefully.
•You may use a band-aid if you wish.

What You ___ Experience:
•Mild tenderness and bruising at the puncture site (groin).
•Soreness in your arms from the intravenous lines.
•Mild to moderate headaches that last several days to a few 
weeks.
•Fatigue is very normal.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the puncture 
site 
•Fever greater than 101.5 degrees Fahrenheit
•Constipation
•Blood in your stool or urine
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

 
Followup Instructions:
___